US04745117
Bicyclo[2.2.2]octane-2,3-dicarboximide
A solution of bicyclo[2.2.2]octane-2,3dicarboxylic anhydride (3 g; 16.6 mmol) in tetrahydrofuran (9 ml) was dropwise added to a mixture of 29% aqueous ammonia (6 g; 83 mmol) in water (18 ml) while ice-cooling, and the resultant mixture was heated. The solvent was removed under atmospheric pressure, and acetic anhydride (10 ml) was added thereto, followed by refluxing for 30 minutes. The solvent was removed under reduced pressure, and the residue was combined with toluene (24 ml) and heated to dissolve. After cooling, the precipitated crystals were collected by filtration to give the objective compound. M.P., 199°-200° C.

reactant | bicyclo[2.2.2]octane-2,3dicarboxylic anhydride | 16.6 mmol, 3 g | C12C3C(C(CC1)CC2)C(=O)OC3=O | C10H12O3
reactant | ammonia | 83 mmol, 6 g | N | H3N
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | water | 18 ml | O | H2O
product | Bicyclo[2.2.2]octane-2,3-dicarboximide | C12C3C(C(CC1)CC2)C(NC3=O)=O | C10H13NO2
